US05164402
Alternatively, 1-benzyloxycarbonyl-1,2,5,6-tetrahydropyridine can be subjected to reaction with ethyl diazoacetate under rhodium acetate catalysis, to provide ethyl-3-benzyloxycarbonyl-3-azabicyclo[4.1.0]heptane-7-carboxylate. Ester hydrolysis with sodium hydroxide then provides the corresponding carboxylic acid, which can be converted as described in Section VIII to give amino or substituted amino derivatives.

reactant | 1-benzyloxycarbonyl-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)OC(=O)N1CC=CCC1 | C13H15NO2
reactant | ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
product | ethyl-3-benzyloxycarbonyl-3-azabicyclo[4.1.0]heptane-7-carboxylate | C(C)OC(=O)C1C2CCN(CC12)C(=O)OCC1=CC=CC=C1 | C17H21NO4
